US05135937
7.24 g of crude 4-[1-hydroxycyclohex-1-yl-1-(1,2,4-triazolyl)methyl]benzonitrile is dissolved at 0° in 50 ml of dichloromethane and stirred for 1 hour at 0° with 22.7 ml of thionyl chloride. Then the mixture is concentrated to dryness under vacuum, dissolved in 50 ml of dichloromethane, stirred with 30 ml of triethylamine for 2 hours, diluted with water, extracted four times with ethyl acetate, washed with sodium chloride solution, dried over sodium sulfate, concentrated to dryness under vacuum, and chromatographed on silica gel with hexane/ethyl acetate, yielding 1.45 g of 4-[1-cyclohexylidene-1-(1,2,4-triazolyl)methyl]benzonitrile as a free base, mp 92-93°.

reactant | 4-[1-hydroxycyclohex-1-yl-1-(1,2,4-triazolyl)methyl]benzonitrile | 7.24 g | OC1(CCCCC1)C(C1=NNC=N1)C1=CC=C(C#N)C=C1 | C16H18N4O
reactant | thionyl chloride | 22.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[1-cyclohexylidene-1-(1,2,4-triazolyl)methyl]benzonitrile | 1.45 g | C1(CCCCC1)=C(C1=NNC=N1)C1=CC=C(C#N)C=C1 | C16H16N4
